US05849757
3-(1-tert-Butoxycarbonylaminocyclobutyl)pyrrolidine (fr. 1)
A 212 mg (0.65 mmol) portion of 1-benzyl-3-(1-tert-butoxycarbonylaminocyclobutyl)pyrrolidine (fr. 1) was dissolved in 20.0 ml of ethanol, mixed with 200 mg of 10% palladium-carbon and stirred for 3 hours under a hydrogen pressure of 4 atm with warming by an infrared lamp. After removing the catalyst by filtration, the solvent was evaporated to yield 136 mg (88%) of the title compound.

reactant | 1-benzyl-3-(1-tert-butoxycarbonylaminocyclobutyl)pyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)C1(CCC1)NC(=O)OC(C)(C)C | C20H30N2O2
solvent | ethanol | 20.0 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
product | 3-(1-tert-Butoxycarbonylaminocyclobutyl)pyrrolidine | 136 mg, 88% | C(C)(C)(C)OC(=O)NC1(CCC1)C1CNCC1 | C13H24N2O2
